US08809267B2
A round bottom was charged with 4-trifluoromethyl-quinolin-2-ol (1 g, 4.69 mmol) and POCl3 (10 ml, 107.28 mmol). The mixture was heated to reflux for 3 hours, and then concentrated to remove excess POCl3. The mixture was based with 5 N NaOH and extracted with DCM. The mixture was purified by flash chromatography to give intermediate 2-chloro-4-trifluoromethyl-quinoline (845 mg, 78%): LCMS found 232.22 [M+H]+.

reactant | 4-trifluoromethyl-quinolin-2-ol | 4.69 mmol, 1 g | FC(C1=CC(=NC2=CC=CC=C12)O)(F)F | C10H6F3NO
reactant | POCl3 | 107.28 mmol, 10 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-4-trifluoromethyl-quinoline | 845 mg, 78% | ClC1=NC2=CC=CC=C2C(=C1)C(F)(F)F | C10H5ClF3N
